US06528525B1
(a) Ethyl 3-(4-benzyloxyphenyl)-2-(pyrrole-1-yl)propionate
1,4-dichloro-1,4-dimethoxybutane (3.30 g) was added to a solution of ethyl 3-(4-benzyloxyphenyl)-2-aminopropionate (3.30 g) in dichloromethane (80 ml) and then amberlyst A-21 (20 g) was added to the mixture. The mixture was stirred at ambient temperature for 18 hours and the reaction mixture was filtered. The filtrate was concentrated and the residue was purified via chromatography on a silica gel column using ethyl acetate/hexane=1/5 as the eluant to afford the desired compound (1.00 g) as a syrup.

reactant | 1,4-dichloro-1,4-dimethoxybutane | 3.30 g | ClC(CCC(OC)Cl)OC | C6H12Cl2O2
reactant | ethyl 3-(4-benzyloxyphenyl)-2-aminopropionate | 3.30 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)N | C18H21NO3
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | Ethyl 3-(4-benzyloxyphenyl)-2-(pyrrole-1-yl)propionate | 1.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)N1C=CC=C1 | C22H23NO3
